US05106611
Sodium hydroxide pellets (20 g, 0.5 moles), water (25 g), toluene (50 ml) and tetrabutylammonium hydrogen sulphate (1 g) are added in succession into a reactor. They are heated to 50° C. with stirring and under nitrogen and a toluene solution (50 ml) of allyl bromide (16.5 g, 0.134 moles) and of 2,4-di-tert-butylphenol (25 g, 0.12 moles) is added over 45 minutes. The temperature rises progressively to 68° C. The materials are left at this temperature for 3 hours. Cooling is applied, 50 ml of water and 50 ml of toluene are added and the phases are separated. The toluene phase is washed with water and dried over sodium sulphate and the solvent is evaporated off to give an orange-coloured oil which is purified on a bed of silica gel 60 (eluent: heptane). 2,4-Di-tert-butylallyloxybenzene is obtained as a colourless liquid (23 g, yield =78 %).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | allyl bromide | 0.134 moles, 16.5 g | C(C=C)Br | C3H5Br
reactant | 2,4-di-tert-butylphenol | 0.12 moles, 25 g | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)O | C14H22O
catalyst | tetrabutylammonium hydrogen sulphate | 1 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 25 g | O | H2O
product | 2,4-Di-tert-butylallyloxybenzene | C(C)(C)(C)C1=C(C=CC(=C1)C(C)(C)C)OCC=C | C17H26O
